US09421205B2
(j) tert-Butyl 4-(4-((4-(2-(5-(2-amino-2-oxoethyl)pyrimidin-4-yl)ethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I114)
Lithium 2-(4-(2-(2-((4-(1-(tert-butoxycarbonyl)piperidin-4-yl)phenyl)amino)-5-(trifluoro-methyl)pyrimidin-4-yl)ethyl)pyrimidin-5-yl)acetate (I113) (0.092 g, 0.16 mmol) was dissolved in dry THF (7 mL) and dry DMF (1 mL) under an atmosphere of nitrogen. To the solution were added 1-hydroxybenzotriazole (0.023 g, 0.17 mmol) and EDCl (0.033 g, 0.17 mmol) and N,N-diisopropylethylamine (0.109 mL, 0.624 mmol) and the reaction mixture was stirred at room temperature for 10 minutes. Ammonium carbonate (0.075 g, 0.78 mmol) was added in one portion, and the reaction was stirred room temperature for 24 hours. More reagents were added, 1-hydroxybenzotriazole (0.011 g) and EDCl (0.016 g) and N,N-diisopropylethylamine (0.055 mL) and ammonium carbonate (0.035 g) and the reaction was stirred for another 20 hours at 35° C. The volatiles were removed in vacuo and the residual solution was diluted with EtOAc (70 mL) and sat. aq. NaHCO3 (70 mL). The layers were separated and the aqueous layer was extracted with EtOAc (2×70 mL), the organic layers were combined and washed with water (100 mL), brine (100 mL), dried (MgSO4), filtered and concentrated in vacuo to give an oily solid. The crude product was purified by silica gel chromatography (Isolera Biotage, 12 g Si Cartridge, 0-100% EtOAc in petroleum benzine 40-60° C., then 0-10% methanol in EtOAc) to give the title compound (I114) (0.076 g, 83% yield) as a pale yellow foam; 1H NMR (400 MHz, d6-DMSO) δ 10.03 (s, 1H), 8.94 (s, 1H), 8.64 (s, 1H), 8.53 (s, 1H), 7.64 (br s, 1H), 7.55 (d, J=7.6 Hz, 2H), 7.16 (d, J=8.6 Hz, 2H), 7.11 (brs, 1H), 4.12-4.04 (m, 2H), 3.57 (s, 2H), 3.30-3.21 (m, 4H), 2.77 (br s, 2H), 2.68-2.58 (m, 1H), 1.74 (d, J=12.7 Hz, 2H), 1.53-1.37 (m, 11H). LCMS Method C: rt 6.12 min; m/z 586.1 [M+H]+.

reactant | Lithium 2-(4-(2-(2-((4-(1-(tert-butoxycarbonyl)piperidin-4-yl)phenyl)amino)-5-(trifluoro-methyl)pyrimidin-4-yl)ethyl)pyrimidin-5-yl)acetate | 0.16 mmol, 0.092 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)CCC1=NC=NC=C1CC(=O)[O-])C(F)(F)F.[Li+]
reactant | 1-hydroxybenzotriazole | 0.17 mmol, 0.023 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | EDCl | 0.17 mmol, 0.033 g | CCN=C=NCCCN(C)C.Cl
reactant | N,N-diisopropylethylamine | 0.624 mmol, 0.109 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Ammonium carbonate | 0.78 mmol, 0.075 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | 1-hydroxybenzotriazole | 0.011 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | EDCl | 0.016 g | CCN=C=NCCCN(C)C.Cl
reactant | N,N-diisopropylethylamine | 0.055 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ammonium carbonate | 0.035 g | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | methanol | CO | CH4O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 4-(4-((4-(2-(5-(2-amino-2-oxoethyl)pyrimidin-4-yl)ethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 0.076 g, 83% yield | NC(CC=1C(=NC=NC1)CCC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C29H34F3N7O3
